US04797401
(B) 1-(2-Chloro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine
The title compound, m.p. 102°-4°, was prepared similarly to the procedure of Example 1(A) from 1-(2-chloro-4-nitrophenyl)piperazine (1.2 g), 4-nitrophenethyl bromide (1.15 g) and sodium bicarbonate (0.85 g). The yield of the title compound was 0.37 g (from ethyl acetate), m.p. 100°-102°. A second batch had an m.p. of 102°-4° (from ethyl acetate/methanol)

reactant | 1-(2-chloro-4-nitrophenyl)piperazine | 1.2 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1 | C10H12ClN3O2
reactant | 4-nitrophenethyl bromide | 1.15 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | sodium bicarbonate | 0.85 g | C([O-])(O)=O.[Na+]
product | 1-(2-Chloro-4-nitrophenyl)-4-(4-nitrophenethyl)piperazine | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H19ClN4O4
